US07105544B2
N-{5-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE
Example 108 was prepared from bis(4-chlorophenyl)acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide according to the procedures described in Scheme 10: ESMS m/e: 584.2 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F | C18H28FN3O
product | N-{5-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F)C1=CC=C(C=C1)Cl | C32H36Cl2FN3O2
